US09278085B2
(E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-en-1-ol (29.7 mg, 0.097 mmol) in AcCN (0.5 mL) with 2 drops of H2O was cooled to 0° C. CAN (114.7 mg, 0.209 mmol) was dissolved into AcCN (0.2 mL) and H2O (0.5 mL) and added to a stirred solution of alcohol at 0° C. The reaction was stirred at 0° C. for 1 h and H2O (2 mL) and EtOAc (2 mL) was added, the layers separated and the aqueous phase extracted 3×2 mL EtOAc. The combined organics were washed 2×2 mL saturated brine, dried over anhydrous Na2SO4 and concentrated to a yellow oil. Flash chromatography yielded (E)-2-(7-hydroxy-3-methylhept-2-enyl)-3,5,6-trimethylcyclohexa-2,5-diene-1,4-dione (2.2 mg) as a yellow oil (8.2%). 13C NMR (100 MHz, CDCl3) δ 187.9, 187.0, 143.1, 140.4, 104.3, 134.0, 119.7, 77.2, 62.9, 39.3, 32.3, 25.6, 24.0, 16.2, 12.4, 12.3, 12.2

reactant | (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-en-1-ol | 0.097 mmol, 29.7 mg | COC1=C(C(=C(C(=C1C)C)OC)C)C/C=C(/CCCCO)\C | C19H30O3
reactant | CAN | 0.209 mmol, 114.7 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | H2O | 0.5 mL | O | H2O
reactant | H2O | 2 mL | O | H2O
reactant | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | AcCN | 0.5 mL | C(=O)(C)C#N | C3H3NO
catalyst | H2O | 2 drops | O | H2O
solvent | AcCN | 0.2 mL | C(=O)(C)C#N | C3H3NO
product | (E)-2-(7-hydroxy-3-methylhept-2-enyl)-3,5,6-trimethylcyclohexa-2,5-diene-1,4-dione | 2.2 mg, 8.2% | OCCCC/C(=C/CC=1C(C(=C(C(C1C)=O)C)C)=O)/C | C17H24O3
